US08138187B2
3-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)propyl acetate hydrochloride, polar diastereomer (Ex. 185)
3-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)propyl acetate (more polar diastereomer) (60 mg, 0.16 mmol) was dissolved in ethyl acetate (20 ml). Me3SiCl (40 μl, 0.32 mmol) was then added dropwise at RT and the mixture was stirred for 1 h. A white precipitate precipitated out. The precipitate was filtered off with suction, washed with ethyl acetate (1×5 ml) and then dried. Example 185 (55 mg, m.p. 229-232° C., 84%) was a white solid.

reactant | 3-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)propyl acetate | C(C)(=O)OCCCC1=C(NC2=CC=CC=C12)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C27H34N2O2
reactant | Me3SiCl | 0.32 mmol, 40 μl | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)propyl acetate hydrochloride | Cl.C(C)(=O)OCCCC1=C(NC2=CC=CC=C12)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | InChI=1S/C27H34N2O2.ClH/c1-20(30)31-19-9-13-24-23-12-7-8-14-25(23)28-26(24)21-15-17-27(18-16-21,29(2)3)22-10-5-4-6-11-22;/h4-8,10-12,14,21,28H,9,13,15-19H2,1-3H3;1H
